US06624159B2
3-(Morpholin-4-ylmethyl)-5,6,7,8-tetrahydroquinoline [BQ.3]
A 100 mL three-neck round bottom flask equipped with a nitrogen inlet, bubbler, and glass stopper is charged with 1,2-dichloroethane (45 mL), 5,6,7,8-tetrahydroquinoline-3-carbaldehyde (Preparation 15, 2.39 g) and morpholine (1.42 mL). To the above solution is added NaBH(OAc)3 (5.01 g) in one portion. After 1 hour at room temperature, the reaction is quenched via slow addition of Na2CO3 (50 mL of a saturated aqueous solution). The resulting biphasic solution is stirred for two hours at room temperature then poured into methylene chloride (100 mL). The resulting layers are separated, and the organic layer is dried with Na2SO4, filtered, and concentrated in vacuo. The crude product is purified by flash chromatography (10% methanol/CH2Cl2) to give 2.60 g (76%) of the title compound as an oil which crystallizes on standing. Physical characteristics: M.p. 40.9° C.; 1H NMR (CDCl3): δ8.24, 7.31, 3.68, 3.41, 2.88, 2.74, 2.41, 1.87, 1.78; 13C NMR (CDCl3) δ156.4, 147.5, 137.6, 131.9, 130.1, 66.9, 60.4, 53.5, 32.2, 28.7, 23.1, 22.7.

reactant | 5,6,7,8-tetrahydroquinoline-3-carbaldehyde | 2.39 g | N1=CC(=CC=2CCCCC12)C=O | C10H11NO
reactant | morpholine | 1.42 mL | N1CCOCC1 | C4H9NO
reactant | NaBH(OAc)3 | 5.01 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-dichloroethane | 45 mL | ClCCCl | C2H4Cl2
product | 3-(Morpholin-4-ylmethyl)-5,6,7,8-tetrahydroquinoline | 2.60 g, 76% | N1(CCOCC1)CC=1C=NC=2CCCCC2C1 | C14H20N2O
